US08420690B2
b) 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-phenylethyl]carbamate
To a solution of 1,1-dimethylethyl (2-{[(5-bromo-3-thienyl)carbonyl]amino}-2-phenylethyl)carbamate (250 mg, 0.588 mmol) in dioxane/H2O (5:1, 6 mL) was added K2CO3 (325 mg, 2.35 mmol), tetrakistriphenylphosphine Pd(0) (34 mg, 29.4 μmol) and 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (126 mg, 0.647 mmol). The reaction mixture was heated to 80° C. in a sealed tube. After 5 h, additional tetrakistriphenylphosphine Pd(0) (34 mg, 29.4 μmol) and 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (126 mg, 0.647 mmol) were added. After 12 h, the reaction solution was then partitioned between H2O-DCM and the aqueous phase was washed several times with DCM. The combined organics were dried (Na2SO4), concentrated under vacuum and purified on silica gel (1% MeOH in DCM) to give the title compound (250 mg, quant.) as an orange oil: LCMS (ES) m/z=427.

reactant | 1,1-dimethylethyl (2-{[(5-bromo-3-thienyl)carbonyl]amino}-2-phenylethyl)carbamate | 0.588 mmol, 250 mg | BrC1=CC(=CS1)C(=O)NC(CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C18H21BrN2O3S
reactant | K2CO3 | 2.35 mmol, 325 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 0.647 mmol, 126 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 0.647 mmol, 126 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
solvent | dioxane H2O | 6 mL | O1CCOCC1.O
catalyst | tetrakistriphenylphosphine Pd(0) | 29.4 μmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakistriphenylphosphine Pd(0) | 29.4 μmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-phenylethyl]carbamate | 250 mg | CN1N=CC=C1C1=CC(=CS1)C(=O)NC(CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C22H26N4O3S
